US06239160B1
Step 1: Tert-butyl 3-amino-3-(4-trifluoromethyl-3-pyridinecarbonyloxyimino)propionate
30 g of 4-trifluoromethyl-3-pyridinecarboxylic acid is initially charged in 150 ml of dry THF and, a little at a time, admixed with 25.3 g of carbonyl-diimidazole. The mixture is stirred at room temperature for 30 min. 27.2 g of tert-butoxycarbonylacetamide oxime dissolved in 150 ml of THF are then added dropwise. The mixture is stirred overnight, the solvent is evaporated and the residue is taken up in ethyl acetate, washed three times with 1 M sulfuric acid and once with saturated sodium bicarbonate solution. Concentration of the ethyl acetate phase gives 28 g of the product as a pale yellow solid.

reactant | 4-trifluoromethyl-3-pyridinecarboxylic acid | 30 g | FC(C1=C(C=NC=C1)C(=O)O)(F)F | C7H4F3NO2
reactant | carbonyl-diimidazole | 25.3 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | tert-butoxycarbonylacetamide oxime | 27.2 g | C(C)(C)(C)OC(=O)CC(N)=NO | C7H14N2O3
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | Tert-butyl 3-amino-3-(4-trifluoromethyl-3-pyridinecarbonyloxyimino)propionate | 28 g | NC(CC(=O)OC(C)(C)C)=NOC(=O)C=1C=NC=CC1C(F)(F)F | C14H16F3N3O4
